US04016166
To a solution of 2.8 g of 1-(m-nitrophenyl)quinazoline-2,4(1H, 3H)-dione and 30 ml of dimethylformamide was added 0.6 g of approximately 55 % sodium hydride, and the solution was stirred for 30 minutes at room temperature. To this was added 2.3 g of methyl fluorosulfate, and the whole was reacted for one hour at room temperature. After the reaction was complete, the solvent was distilled off from the reaction mixture under reduced pressure. To the residue obtained was added water to precipitate a crude product. Recrystallization of this product from methanol gave 2.7 g of 1-(m-nitrophenyl)- 3-methylquinazoline-2,4(1H, 3H)-dione as colorless needles, melting at 241°-242° C.

reactant | 1-(m-nitrophenyl)quinazoline-2,4(1H, 3H)-dione | 2.8 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(NC(C2=CC=CC=C12)=O)=O | C14H9N3O4
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | methyl fluorosulfate | 2.3 g | S(=O)(=O)(OC)F | CH3FO3S
solvent | water | O | H2O
product | 1-(m-nitrophenyl)- 3-methylquinazoline-2,4(1H, 3H)-dione | 2.7 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=CC=CC=C12)=O)C)=O | C15H11N3O4
